US08076324B2
N-[1-Dimethylaminomethylidene]-3-methylsulfanylbenzamide
8.5 g of 3-methylsulfanylbenzamide and 18 ml of dimethylformamide dimethyl acetal were heated at 120° C. while the formed methanol was eliminated by distillation. After heating for 3 h, the volatiles were removed in vacuo. The crude product was purified by flash chromatography (300 g silica gel; DCM/MOH, gradient from 100:0 to 95:5). 8 g of the title compound were obtained as an oil.

reactant | 3-methylsulfanylbenzamide | 8.5 g | CSC=1C=C(C(=O)N)C=CC1 | C8H9NOS
reactant | dimethylformamide dimethyl acetal | 18 ml | COC(N(C)C)OC | C5H13NO2
solvent | methanol | CO | CH4O
product | N-[1-Dimethylaminomethylidene]-3-methylsulfanylbenzamide | 8 g | CN(C=NC(C1=CC(=CC=C1)SC)=O)C | C11H14N2OS
